US09193725B2
To a stirred solution of 1,3-dimethyl-5-phenyl-1,4-dihydropyridazino[3,4-d]pyrimidine (260 mg) in dry THF (15 mL), sodium borohydride (414 mg) was slowly added, followed by boric acid (670 mg) under nitrogen atmosphere at 0° C. The reaction mixture was stirred at room temperature for 2 hours and solvents were removed under reduced pressure. The resulting oil was diluted with dichloromethane (50 mL), washed with 10% NaHCO3 (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to give a residue which was purified by column chromatography using MeOH/CHCl3 (0.5:9.5) as eluent to afford 1,3-dimethyl-5-phenyl-1,2,3,4-tetrahydropyridazino[3,4-d]pyrimidine (95 mg) as colorless oily liquid. 1H NMR (DMSO-d6): δ 1.00-1.02 (d, 3H), 2.62-2.71 (t, 2H), 3.22 (s, 3H), 3.31-3.34 (m, 1H), 5.28-5.31 (d, 1H), 7.43-7.51 (m, 5H), 8.36 (s, 1H).

reactant | 1,3-dimethyl-5-phenyl-1,4-dihydropyridazino[3,4-d]pyrimidine | 260 mg | CN1N=C(CC=2C1=NC=NC2C2=CC=CC=C2)C | C14H14N4
reactant | sodium borohydride | 414 mg | [BH4-].[Na+]
reactant | boric acid | 670 mg | B(O)(O)O | BH3O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1,3-dimethyl-5-phenyl-1,2,3,4-tetrahydropyridazino[3,4-d]pyrimidine | 95 mg | CN1NC(CC=2C1=NC=NC2C2=CC=CC=C2)C | C14H16N4
